US05506267
4-[6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoylamino]benzoylglutamic acid di-t-butylester
To a solution of 6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoic acid as obtained in Reference Example 34 (200 mg) and 4-aminobenzoyl-glutamic acid di-t-butyl ester (108 mg) in pyridine (6 ml), phosphorus trichloride (4 drops) was added drop by drop, followed by stirring at room temperature for 1 hour. After the solvent was concentrated, the residue was purified by silica gel column (n-hexane:ethyl acetate=2:1) to yield the title compound (282 mg, yield 93%) as a colorless oily substance.

reactant | 6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoic acid | C1(=CC=CC=C1)CCCCCCCCCCCC(=O)OC(CSCCC(=O)O)COC(CCCCCCCCCCCC1=CC=CC=C1)=O | C42H64O6S
reactant | 4-aminobenzoyl-glutamic acid di-t-butyl ester | 108 mg | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)N)=O)CCC(=O)OC(C)(C)C)=O | C20H30N2O5
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
catalyst | phosphorus trichloride | 4 drops | P(Cl)(Cl)Cl | Cl3P
product | 4-[6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoylamino]benzoylglutamic acid di-t-butylester | 282 mg, yield 93% | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)NC(CCSCC(COC(CCCCCCCCCCCC1=CC=CC=C1)=O)OC(CCCCCCCCCCCC1=CC=CC=C1)=O)=O)=O)CCC(=O)OC(C)(C)C)=O | C62H92N2O10S
